US04372953
1-Methyl-5-mercapto-1,2,3,4-tetrazole (4.6 g) and 1,3-dibromopropane (4 g) are dissolved in acetone (50 ml). To the mixture is added potassium carbonate (5.5 g), and the mixture is refluxed for 3 hours. After acetone is distilled off, water is added to the residue, and the precipitated crystals are separated by filtration and recrystallized from ethanol to give 1-methyl-5-[3-(1-methyl-1,2,3,4-tetrazol-5-yl)thiopropyl]thio-1,2,3,4-tetrazole (3.6 g) as colorless prisms, m.p. 141.5°-143.5° C.

reactant | 1-Methyl-5-mercapto-1,2,3,4-tetrazole | 4.6 g | CN1N=NN=C1S | C2H4N4S
reactant | 1,3-dibromopropane | 4 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-methyl-5-[3-(1-methyl-1,2,3,4-tetrazol-5-yl)thiopropyl]thio-1,2,3,4-tetrazole | 3.6 g | CN1N=NN=C1SCCCSC1=NN=NN1C | C7H12N8S2
